US08110585B2
trans-1-[2-(2-methyl-2H-indazol-4-yl)cyclopropyl]methanamine
To a suspension of lithium aluminum hydride (319 mg, 8.61 mmol) in tetrahydrofuran (17 mL) was added a solution of trans-2-(2-methyl-2H-indazol-4-yl)cyclopropanecarbaldehyde oxime (349 mg, 1.62 mmol) in tetrahydrofuran (17 mL) at room temperature, and the mixture was stirred at 60° C. for 1 hr. Sodium sulfate decahydrate (3.5 g) was added under ice-cooling, and the mixture was filtered through celite. The filtrate was concentrated under reduced pressure to give the title compound (325 mg, yield 99%).

reactant | lithium aluminum hydride | 8.61 mmol, 319 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | trans-2-(2-methyl-2H-indazol-4-yl)cyclopropanecarbaldehyde oxime | 1.62 mmol, 349 mg | CN1N=C2C=CC=C(C2=C1)[C@H]1[C@@H](C1)C=NO | C12H13N3O
reactant | Sodium sulfate decahydrate | 3.5 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 17 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 17 mL | O1CCCC1 | C4H8O
product | trans-1-[2-(2-methyl-2H-indazol-4-yl)cyclopropyl]methanamine | 325 mg, yield 99% | CN1N=C2C=CC=C(C2=C1)[C@H]1[C@@H](C1)CN | C12H15N3
